US08304557B2
(iii) N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide
To a solution of 3-(1-cyano-1-methylethyl)-N-{3-[(6-nitropyridin-3-yl)oxy]phenyl}benzamide (6.00 g, 14.9 mmol) in methanol (150 mL) was added 10% palladium-carbon (790 mg), and the mixture was stirred at room temperature for 20 hr under a hydrogen atmosphere (3.0 atm). The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was recrystallized from ethyl acetate and hexane to give the title compound (4.42 g, 79%) as colorless crystals.

reactant | 3-(1-cyano-1-methylethyl)-N-{3-[(6-nitropyridin-3-yl)oxy]phenyl}benzamide | 14.9 mmol, 6.00 g | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=NC(=CC2)[N+](=O)[O-])C=CC1 | C22H18N4O4
solvent | methanol | 150 mL | CO | CH4O
catalyst | palladium-carbon | 790 mg | [C].[Pd]
product | N-{3-[(6-aminopyridin-3-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide | 4.42 g, 79% | NC1=CC=C(C=N1)OC=1C=C(C=CC1)NC(C1=CC(=CC=C1)C(C)(C)C#N)=O | C22H20N4O2
